Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
word finding difficulties, visual loss 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ Stroke Scale - Total [0]  
 1a. Level of Consciousness -  
 1b. LOC Questions -  
 1c. LOC Commands -  
 2. Best Gaze -  
 3. Visual Fields -  
 4. Facial Palsy -  
 5a. Motor arm, left -  
 5b. Motor arm, right -  
 6a. Motor leg, left -  
 6b. Motor leg, right -  
 7. Limb Ataxia -  
 8. Sensory -  
 9. Language -  
 10. Dysarthria -  
 11. Extinction and Neglect - 

Pre-stroke mRS
- Modified ___ Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead 

Personal Fact: works as a ___, teaches people how to cook
seafood

HPI:
___ is a ___ man with a PMHx of DM, HTN, and HL who
presents with word-finding difficulty and vision changes. 

He was in his USOH until ___ at which time he was
attempting to text and couldn't spell "simple words" (including
"know" and "now.") At times he could think of the word and would
spell it incorrectly, and at other times, he could not think of
the word he wanted. He is not sure what the was attempting to
type, but he recalls that he knew it was wrong and became
frustrated. This lasted "a few hours" (about 3) and then he went
to sleep. When he woke up, he was back at baseline. No 
associated
headache, he did not attempt to speak to anyone, no other
neurologic symptoms. 

Last ___, he was sitting on the bus (window seat) 
at
7pm and staring out the window on his right while the bus was
waiting at a bus stop. He initially noticed two people standing
just outside in front of him (spaced about 2 feet apart), and
then when he looked back again, he could only see the person on
the left. If he looked to his right, he could see the missing
person. He felt like his "vision closed" on the right side. He
felt that a quarter of his visual field was gone (not a
quadrantanopia but the rightmost rectangle representing a 
quarter
of his field). Then, over 30 seconds, the person on the right
returned. Then, the person kept disappearing/returning. He 
looked
up at the banner above the windows on the right, and part of the
words on the right were missing. He doesn't recall the
word/phrase written there, but it reappeared after 30 seconds. 
He
did not look back at the banner again. As the bus traveled, he
felt he could see the windows and passengers on either side. 
When
he got off the bus 5 minutes later, he wondered whether he was
hypoglycemic and bought a cupcake at a store. Five minutes 
later,
he got home and spoke to his roommate; he could think of the
words he wanted to say, but he couldn't get them out. He denies
non-words or neologisms. His roommate could understand him. His
roommate did not notice that anything was amiss (but roommate is
___ and speaks ___ poorly, per patient). He then
attempted to text his sister, and he knew that his texts were 
not
coming out as intended. His sister called him, and he could
imagine a bus, but he could not think of the word for it. On TV,
he noticed that he could not see the right side of the
screen/text on the bottom of the screen. He became frustrated,
and he went to sleep at 8pm (1 hour after symptom onset). He
awoke at 7am the following morning asymptomatic. No headaches,
weakness, or sensory changes during this period. He has been on
aspirin 81mg daily for the last 4 weeks.

On neuro ROS, the pt denies headache, blurred vision, diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus, and
hearing difficulty. Denies difficulties comprehending speech. 
Denies focal weakness, numbness, and parasthesiae. No bowel or
bladder incontinence or retention. Denies difficulty with gait.

Pos: one loose stool on ___
On general review of systems, the pt denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, constipation, or
abdominal pain.  No recent change in bowel or bladder habits. No
dysuria. Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
ARM PAIN
DIABETES                                                        
HTN (patient thinks he might have had this "a long time ago" but
is now on antihypertensive due to diabetes)
HL (patient unsure whether he has this or was just put on statin
due to DM)
Arthritis
Cataracts s/p cataract surgery (bilateral)
GERD

 
Social History:
___
Family History:
Sister with "rare cancer" (type unknown), mother with lymphoma,
father with bladder cancer.                          

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Vitals: T: 98.4F P: 84 R: 18  BP: 128/87 SaO2: 100%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity.
Pulmonary: no WOB
Cardiac: RRR
Abdomen: soft, NT/ND
Extremities: No C/C/E bilaterally

Neurologic:
Please see top of note for NIHSS.

-Mental Status: Alert, oriented x3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically. Does not have a uvula.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No adventitious movements, such as tremor, noted.
No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5    5    5     5   5    5    5    5    5   5 
 R 5   5    5    5    5     5   5    5    5    5    5   5

-Sensory: No deficits to light touch, cold sensation,
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Brisk at brachioradialis and patellas bilaterally.
Plantar response was flexor on right, withdrawal on left.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

**************
DISCHARGE PHYSICAL EXAM
Vitals: Tm 99.1F, Tc 98.2F, BP 101-119/67-80, HHR 74-99, RR 
___, O2 97% RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity.
Pulmonary: no WOB
Cardiac: RRR
Abdomen: soft, NT/ND
Extremities: No C/C/E bilaterally

Neurologic:
Please see top of note for NIHSS.

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically. Does not have a uvula.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No adventitious movements, such as tremor, noted.
No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5    5    5     5   5    5    5    5    5   5 
 R 5   5    5    5    5     5   5    5    5    5    5   5

-Sensory: No deficits to light touch, cold sensation,
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Brisk at brachioradialis and patellas bilaterally.
Plantar response was flexor on right, withdrawal on left.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
LABORATORY STUDIES

___ 05:20AM BLOOD WBC-7.1 RBC-4.71 Hgb-15.0 Hct-43.8 MCV-93 
MCH-31.8 MCHC-34.2 RDW-12.9 RDWSD-44.3 Plt ___
___ 05:20AM BLOOD Glucose-212* UreaN-15 Creat-0.9 Na-139 
K-4.4 Cl-100 HCO3-28 AnGap-15
___ 05:40AM BLOOD ALT-21 AST-19 LD(LDH)-151 CK(CPK)-113 
AlkPhos-83 TotBili-0.9
___ 04:40PM BLOOD %HbA1c-7.8* eAG-177*
___ 05:40AM BLOOD Triglyc-100 HDL-49 CHOL/HD-2.8 LDLcalc-70
___ 05:40AM BLOOD CRP-1.7
___ 04:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

********
IMAGING STUDIES 

TTE ___
The left atrium is normal in size. No left atrial mass/thrombus 
seen (best excluded by transesophageal echocardiography). With 
maneuvers, there is early appearance of agitated 
saline/microbubbles in the left atrium/left ventricle most 
consistent with a patent foramen ovale. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). The estimated cardiac index is high 
(>4.0L/min/m2). No masses or thrombi are seen in the left 
ventricle. Doppler parameters are indeterminate for left 
ventricular diastolic function. There is no ventricular septal 
defect. Right ventricular chamber size and free wall motion are 
normal. The ascending aorta is mildly dilated. The number of 
aortic valve leaflets cannot be determined. No masses or 
vegetations are seen on the aortic valve. There is no aortic 
valve stenosis. No aortic regurgitation is seen. The mitral 
valve leaflets are structurally normal. There is no mitral valve 
prolapse. No mass or vegetation is seen on the mitral valve. No 
mitral regurgitation is seen. There is borderline pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
IMPRESSION: Patent foramen ovale. Normal biventricular wall 
thickness, cavity size and regional/global systolic function. 
Diastolic parameters indeterminate to assess diastolic function. 
Mildly dilated ascending aorta.  

MRI Head w/o contrast ___. No acute infarction.  No evidence for other acute 
intracranial 
abnormalities. 2. Chiari I malformation with 6 mm downward 
displacement of the cerebellar tonsils. 

CTA Head/Neck ___. No evidence of acute infarction, hemorrhage, or edema. 
2. Extensive noncalcified plaque of the bilateral carotid 
bifurcations with approximately 30% left and no significant 
right internal carotid artery stenosis by NASCET criteria. 
3. Patency of the intracranial vasculature without evidence of 
stenosis, 
occlusion, or aneurysm. 

 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with a history of a number of 
vascular risk factors including diabetes, hypertension, and 
hyperlipidemia who presented with a self-resolving episode of 
right visual field deficit followed by expressive aphasia, 
concerning for acephalgic migraine. On presentation to the ___ 
ED, he had a normal neurologic exam, and remained asymptomatic 
throughout his hospital stay. He had a non-contrast head and 
neck CT demonstrating no acute intracranial process, but 
noncalcified plaques(<50% occlusion) at the right and left 
carotid bifurcations. His MRI found no evidence of cerebral 
infarct, hemorrhage, or mass; it did reveal FLAIR 
hyperintensities in the periventricular and subcortical white 
matter likely reflective of chronic small vessel ischemic 
changes, and a possible Chiari I malformation, with 
recommendation for non-urgent MR cervical spine evaluation for 
syringomyelia. The imaging was not concerning for the stroke, 
and the clinical history and exam suggesting a low likelihood 
for TIA. He did have a TTE with bubble which revealed PFO, but 
no evidence of thrombus, vegetation or significant valvular 
disease. 

Similarly, seizure was unlikely given the duration of the 
episode (>1 hour), and lack of history of seizure disorder. He 
did have an extended routine EEG which revealed some mild left 
sided slowing, no epileptiform discharges, which was thought to 
be nonspecific (awaiting final reading).

This episode is most likely reflective of acephalgic migraine, 
particularly given strong family history (four sisters) with 
migraine, one with atypical features.

TRANSITIONAL ISSUES:
-HbA1c = 7.8%; plan for follow-up with PCP regarding diabetes 
control 
-Outpatient follow-up with Neurology and ___ 
-Noted to have incidental Chiari malformation. Can consider 
Non-urgent MRI cervical spine   
- Follow up final extended routine EEG read 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Farxiga (dapagliflozin) 10 mg oral QHS 
3. liraglutide 0.6 mg/0.1 mL (18 mg/3 mL) subcutaneous QAM 
4. Losartan Potassium 25 mg PO DAILY 
5. MetFORMIN XR (Glucophage XR) 1000 mg PO QPM 
6. MetFORMIN XR (Glucophage XR) 500 mg PO QAM 
7. Omeprazole 20 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Glargine 30 Units Breakfast
11. krill oil 500 mg oral QHS 

 
Discharge Medications:
1.  Glargine 30 Units Breakfast 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  Farxiga (dapagliflozin) 10 mg oral QHS  
5.  krill oil 500 mg oral QHS  
6.  liraglutide 0.6 mg/0.1 mL (18 mg/3 mL) subcutaneous QAM  
7.  Losartan Potassium 25 mg PO DAILY  
8.  MetFORMIN XR (Glucophage XR) 500 mg PO QAM 
Do Not Crush  
9.  MetFORMIN XR (Glucophage XR) 1000 mg PO QPM  
10.  Multivitamins 1 TAB PO DAILY  
11.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acephalgic Migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for temporary changes in your 
vision and difficulty finding words. 

In the hospital you were evaluated by the Neurology Team and 
underwent studies including a CT scan and an MRI to ensure look 
for dangerous causes. Fortunately, the studies did not show any 
evidence of brain injury (such as a stroke). 

They did find a variant of normal brain anatomy and would 
suggest that you have an MRI of your spine, non-urgently in the 
next few months, to further evaluate this possibility. 

Your doctors feels that your presenting symptoms were most 
consistent with an atypical form of migraine headache, called an 
acephalgic migraine. Though you do not have a history of prior 
headaches, your many siblings with migraine headaches make us 
think that this is quite likely. We also think it is very 
unlikely that you had a seizure given how long your episode 
lasted. 

We have arranged follow-up appointment for you with the 
Neurology Department, with Dr. ___. While you were here, we 
measured your Hemoglobin A1c, a marker of your diabetes control, 
which was a bit higher than we would like at 7.8%. We would also 
like you to follow-up with your primary care doctor, ___. 
___, to make sure that your blood sugars are well 
controlled. Please continue on the medications that you came to 
the hospital taking, including the Aspirin 81mg.

Thank you for allowing us to participate in your care.
-Your ___ Neurology Team
 
Followup Instructions:
___